US07259183B2
Preparation of 3-(4-tert-butyl-benzylamino)-propionic acid tert-butyl ester
3.24 g (20 mmol) of 4-tert-butyl benzaldehyde, 3.63 g (20 mmol) of beta-alanine tert-butylester hydrochloride and 2.22 g (22 mmol) of triethyl amine were dissolved in 20 ml methanol and stirred at rt for 1 h. 1.11 g (30 mmol) of sodium borohydride were added in portions under nitrogen and the reaction mixture was stirred for 2 h at rt after complete addition. Water was added and the solvent was evaporated. The residue was extracted twice with diethyl ether. The combined organic layers were washed twice with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (silica gel, diethyl ether) to yield 4.62 g (79%) product as a colorless oil. 1H NMR (DMSO-d6, 300 MHz): δ 7.34 (d, 2H), 7.25 (d, 2H), 3.76 (s, 2H), 2.86 (t, 2H), 2.45 (t, 2H), 1.44 (s, 9H), 1.31 (s, 9H).

reactant | 4-tert-butyl benzaldehyde | 20 mmol, 3.24 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | beta-alanine tert-butylester hydrochloride | 20 mmol, 3.63 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | triethyl amine | 22 mmol, 2.22 g | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 30 mmol, 1.11 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | Water | O | H2O
product | 3-(4-tert-butyl-benzylamino)-propionic acid tert-butyl ester | 4.62 g, 79% | C(C)(C)(C)OC(CCNCC1=CC=C(C=C1)C(C)(C)C)=O | C18H29NO2
